US07790756B2
In DMF (5 mL) was placed 5-(3-amino-4-fluorophenoxy)picolinic acid from Example A12 (500 mg, 2.01 mmol), 2.0 M methylamine solution/THF (10 mL, 20.1 mmol) and HOBt (324 mg, 2.12 mmol). To this was added N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (772 mg, 4.03 mmol) and the solution stirred overnight at RT. The solution was treated with an additional equiv of N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (775 mg) and warmed to 40° C., then cooled to RT and stirred overnight. The solution was diluted with ethyl acetate (30 mL) and washed with water (30 mL), brine (30 mL), dried (Na2SO4) and concentrated in vacuo to yield 5-(3-amino-4-fluorophenoxy)-N-methylpicolinamide (530 mg, 101% yield) as a thick oil, which was used without further purification. MS (ESI) m/z: 262.0 (M+H+).

reactant | 5-(3-amino-4-fluorophenoxy)picolinic acid | NC=1C=C(OC=2C=CC(=NC2)C(=O)O)C=CC1F | C12H9FN2O3
reactant | methylamine | 2.0 M | CN | CH5N
reactant | THF | 20.1 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | HOBt | 2.12 mmol, 324 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 4.03 mmol, 772 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 775 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-amino-4-fluorophenoxy)-N-methylpicolinamide | 530 mg, 101% yield | NC=1C=C(OC=2C=CC(=NC2)C(=O)NC)C=CC1F | C13H12FN3O2
